US05998412
Hydrogen chloride gas was bubbled through a solution of methyl 2-(R)-[(4-tert-butoxycarbonylpiperazine-1-sulfonyl)amino]propionate (3.6 g, 10.7 mmol) [prepared by proceeding as described in Example 2, but substituting 4-(5-chloropyridin-2-yloxy)piperidine and D-valine methyl ester with 1-tert-butoxycarbonyl-1,4-piperazine and D-alanine methyl ester, respectively] in 10% dioxane/methylene chloride (100 ml) for 10 min. The reaction was stirred at RT for 4 h and concentrated in vacuo to give methyl 2-(R)-[(piperazine-1-sulfonyl)amino]propionate (91%) as a white solid that was used without further purification.

reactant | Hydrogen chloride | Cl | ClH
reactant | methyl 2-(R)-[(4-tert-butoxycarbonylpiperazine-1-sulfonyl)amino]propionate | 10.7 mmol, 3.6 g | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)N[C@@H](C(=O)OC)C | C13H25N3O6S
reactant | D-valine methyl ester | COC([C@H](N)C(C)C)=O | C6H13NO2
reactant | D-alanine methyl ester | COC([C@H](N)C)=O | C4H9NO2
solvent | dioxane methylene chloride | 100 ml | O1CCOCC1.C(Cl)Cl
product | methyl 2-(R)-[(piperazine-1-sulfonyl)amino]propionate | 91% | N1(CCNCC1)S(=O)(=O)N[C@@H](C(=O)OC)C | C8H17N3O4S
